US09145433B2
A vial with a piercable teflon cap containing a magetic stir was charged with 5-[2-(4-fluoro-3-methylphenyl)pyridin-3-yl]-1H-indazole (0.2 g, 0.87 mmol), Pd2(dba)3(30 mg, 0.03 mmol) and 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (XPHOS, 60 mg, 0.13 mmol) under argon atmosphere. 6-Methyl-2-pyridylzinc bromide (0.5 M in THF, 4.0 mL, 2 mmol) was added to above reactants and degassed under vacuum. After three degas cycles, the reaction mixture was heated at 65° C. under argon. After 6 h, the reaction mixture was cooled to the room temperature and diluted with Rochelle salt (5 mL) and concentrated to remove the volatiles. The concentrated aqueous solution was diluted with EtOAc (30 mL) and separated the organic layer. Aqueous solution was further extracted with EtOAc (30 mL). Combined organic layers washed with aq. NaCl (10 mL), stirred over MgSO4, and filtered through a pad of Florosil/celite. The filtrate was concentrated and purified by preparative HPLC. The collected fractions were concentrated, diluted with water and neutralized with aq. NaHCO3. The resultant solid formed was collected by filtration and dried to provide 5-(2-(6-Methylpyridin-2-yl)pyridin-3-yl)-1H-indazole (118 mg, 47%) as a white solid. 1H NMR (DMSO-d6): δ 13.01 (s, 1H), 8.63 (dd, 1H, J=0.8 and 4.7 Hz), 7.99 (s, 1H), 7.89 (d, 1H, J=7.9 Hz), 7.57 (app d, 2H, J=8.5 Hz), 7.51 (dd, 1H, J=4.9 and 7.6 Hz), 7.34 (d, 1H, J=8.8 Hz), 7.26 (d, 1H, J=7.6 Hz), 7.07 (d, 1H, J=7.6 Hz), 6.97 (d, 1H, J=8.8 Hz), 2.15 (s, 3H).LCMS: rt 2.13 min (B), purity 97%, MS (m/e) 287 (MH+).

reactant | 5-[2-(4-fluoro-3-methylphenyl)pyridin-3-yl]-1H-indazole | 0.87 mmol, 0.2 g | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=C2C=NNC2=CC1)C | C19H14FN3
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.13 mmol, 60 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | 6-Methyl-2-pyridylzinc bromide | 2 mmol, 0.5 M, 4.0 mL | [Br-].CC1=CC=CC(=N1)[Zn+]
catalyst | Pd2(dba)3 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(2-(6-Methylpyridin-2-yl)pyridin-3-yl)-1H-indazole | 118 mg, 47% | CC1=CC=CC(=N1)C1=NC=CC=C1C=1C=C2C=NNC2=CC1 | C18H14N4
